US08383641B2
d.1 2-Chloro-4-methoxy-5-nitro-pyrimidine
To a solution of 2,4-dichloro-5-nitropyrimidine (10 g, 51.55 mmol) in methanol (150 ml) at −10° C. a solution of potassium methanolate (3.62 g, 51.55 mmol) in methanol (150 ml) was added over a period of 10 minutes. The mixture was allowed to warm to 0° C. and the solvent was evaporated under reduced pressure at 30° C. The residue was purified by silica gel chromatography with n-heptane/ethyl acetate (3:1) as eluent affording 3.7 g (37.9%) of the title compound. 1.34 g (13.7%) 4-chloro-2-methoxy-5-nitropyrimidine was obtained as a side product

reactant | 2,4-dichloro-5-nitropyrimidine | 51.55 mmol, 10 g | ClC1=NC=C(C(=N1)Cl)[N+](=O)[O-] | C4HCl2N3O2
reactant | potassium methanolate | 51.55 mmol, 3.62 g | C[O-].[K+]
solvent | methanol | 150 ml | CO | CH4O
solvent | methanol | 150 ml | CO | CH4O
product | 2-Chloro-4-methoxy-5-nitro-pyrimidine | 3.7 g, 37.9% | ClC1=NC=C(C(=N1)OC)[N+](=O)[O-] | C5H4ClN3O3
